US06403561B1
a) Preparation of N-benzyloxycarbonyl-2(S)-indolinecarboxylic acid n-butylamide
7.699 g (25.9 mmol) of N-benzyloxycarbonyl-2(S)-indolinecarboxylic acid prepared as in Example 16 a) are dissolved in tetrahydrofuran (150 ml), under nitrogen. 2.986 g (25.9 mmol) of N-ethylmorpholine are added, at 0° C., followed by 3.54 g (25.9 mmol) of isobutyl chloroformate. After 45 minutes, 1.903 g (25.9 mmol) of n-butylamine are added and the suspension is stirred overnight. Methylene chloride (300 ml) is added and the organic phase is washed with 10% citric acid (3×100 ml) and then NaHCO3 (3×100 ml). After drying and evaporation, a white solid is obtained which is recrystallized from methanol.

reactant | N-benzyloxycarbonyl-2(S)-indolinecarboxylic acid | 25.9 mmol, 7.699 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O | C17H15NO4
reactant | N-ethylmorpholine | 25.9 mmol, 2.986 g | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 25.9 mmol, 3.54 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | n-butylamine | 25.9 mmol, 1.903 g | C(CCC)N | C4H11N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | Methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | N-benzyloxycarbonyl-2(S)-indolinecarboxylic acid n-butylamide | C(CCC)NC(=O)[C@H]1N(C2=CC=CC=C2C1)C(=O)OCC1=CC=CC=C1 | C21H24N2O3
